US07196080B2
In a mixed solvent of THF-methanol, methyl 6-(3-benzyloxy-4-methoxyphenyl)pyridine-2-carboxylate was stirred in the presence of palladium/carbon under a hydrogen atmosphere to obtain methyl 6-(3-hydroxy-4-methoxyphenyl)pyridine-2-carboxylate. The obtained compound is reacted with cyclopropylmethyl bromide and potassium carbonate in DMF under heating to obtain methyl 6-(3-cyclopropylmethoxy-4-methoxyphenyl) pyridine-2-carboxylate, which was further reacted in a mixed solvent of THF-methanol under heating with adding a 1M aqueous sodium hydroxide solution to obtain an objective compound.

reactant | methyl 6-(3-benzyloxy-4-methoxyphenyl)pyridine-2-carboxylate | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)OC | C21H19NO4
catalyst | palladium/carbon | [Pd] | Pd
solvent | THF methanol | C1CCOC1.CO
product | methyl 6-(3-hydroxy-4-methoxyphenyl)pyridine-2-carboxylate | OC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)OC | C14H13NO4
